US08124606B2
Compound 71: (S)-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile
(S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (86.0 mg, 0.369 mmol) was suspended in propionitrile (1 mL) and (cyanomethyl)trimethylphosphonium iodide (108.0 mg, 0.442 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (193 ul, 1.1 mmol). To the stirred mixture was then added 4-(piperazin-1-yl)benzonitrile (76 mg, 0.406 mmol). The reaction was heated to 90° C. with stirring for 16 h. The crude reaction was cooled to room temperature and concentrated to a residue, then taken up in 3 mL DMSO and purified via HPLC (55-90% acetonitrile in water, ammonium bicarbonate buffer). The fractions were combined and concentrated until a white solid precipitated. The precipitate was filtered off and dried in vacuum to afford the title compound (29.7 mg, 20.0%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.48 (s, 1H), 7.65 (s, 1H), 7.57 (d, J=8.8 Hz, 2H), 6.94-7.04 (m, 3H), 4.44-4.55 (m, 1H), 3.79-3.88 (m, 1H), 3.35 (br. s., 2H), 3.30 (br. s., 4H), 2.54-2.69 (m, 1H), 2.45 (br. s., 4H), 1.97-2.09 (m, 1H), 1.80-1.90 (m, 1H), 1.57-1.69 (m, 1H), 1.32-1.56 (m, 3H). [M+H] calc'd for C23H26N6O, 403. found, 403. MP: 212.2° C.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.369 mmol, 86.0 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.442 mmol, 108.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.1 mmol, 193 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-(piperazin-1-yl)benzonitrile | 0.406 mmol, 76 mg | N1(CCNCC1)C1=CC=C(C#N)C=C1 | C11H13N3
solvent | propionitrile | 1 mL | C(CC)#N | C3H5N
product | (S)-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile | 29.7 mg, 20.0% | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C#N)C=C3)CCCC2 | C23H26N6O
